US07678801B2
31i) N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide hydrobromide
Added 400 uL of acetone to N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide (9.8 mg), mostly dissolved. Added hydrobromic acid (1.1 eq; 1M in water). After about 2.5 weeks, small amounts of crystals were seen. The cap was loosened and let to evaporate overnight. This resulted in more crystals the next day. To this was added back 50 uL of acetone, filtered and dried to provide the title compound.

reactant | N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide | 9.8 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)NC2CC(NC(C2)(C)C)(C)C)=O | C34H34F2N6O2S
reactant | hydrobromic acid | 1M, 1.1 eq | Br | BrH
solvent | acetone | 50 uL | CC(=O)C | C3H6O
solvent | acetone | 400 uL | CC(=O)C | C3H6O
product | N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide hydrobromide | Br.FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)NC2CC(NC(C2)(C)C)(C)C)=O | InChI=1S/C34H34F2N6O2S.BrH/c1-19-9-10-21(37-31(44)20-13-14-45-18-20)15-24(19)28-23-11-12-27(43)42(29-25(35)7-6-8-26(29)36)30(23)40-32(39-28)38-22-16-33(2,3)41-34(4,5)17-22;/h6-15,18,22,41H,16-17H2,1-5H3,(H,37,44)(H,38,39,40);1H
